US09388189B2
(S)—N-(3-Hydroxyphenyl)-4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxamide
(S)-4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylic acid (25 mg, 0.06 mmol), 3-aminophenol (7 mg, 0.07 mmol) and diisopropylethylamine (41 μl, 0.23 mmol) were dissolved in DMF (1.5 ml) and stirred for 30 min. The reaction flask was then sealed and T3P® (50% in DMF, 140 μl, 0.24 mmol) was added dropwise and the reaction mixture stirred overnight at room temperature. The mixture was poured into ice and extracted with ethyl acetate. The resulting organic solution was washed with water and brine, dried over magnesium sulphate, filtered and the solvents were removed under reduced pressure. The product was purified by flash chromatography using SP1® Purification System (0% to 5% DCM/MeOH) to give 2 mg (6% yield) of the title compound as a white solid.

reactant | (S)-4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylic acid | 0.06 mmol, 25 mg | CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC=2C1=C(N=CN2)NC=C1C(=O)O | C22H19N7O3
reactant | 3-aminophenol | 0.07 mmol, 7 mg | NC=1C=C(C=CC1)O | C6H7NO
reactant | diisopropylethylamine | 0.23 mmol, 41 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | T3P | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | (S)—N-(3-Hydroxyphenyl)-4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxamide | 2 mg, 6% yield | OC=1C=C(C=CC1)NC(=O)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C | C28H24N8O3
